US05250700
5-[3-(Cyclopentyloxy)-4-methoxyphenyl]-3-pyrazolidinone
To a suspension of 3-cyclopentyloxy-4-methoxycinnamic acid (7.9 g, mmol) in toluene (25 ml) is added hydrazine hydrate (2.91 n-A, 60 mmol). The reaction mixture is heated to 100° (bath temperature) for 24 hours. Toluene is partially removed and ether carefully added, and the product allowed to crystallize. The solid is filtered to give crude product (6 g). A crystallization from chlorofom-hexane gives the pure product (5 g) m.p. 185°-186°. 1H NMR (CDCl3) δ 7.02 (1H, s, NH--CO), 6.88 (3H, m, arom), 4.79 (2H, m, carbinolic and benzylic), 4.28 (1H, m, NH), 3.84 (3H, s, CH3O--), 2.79 (2H, d, --CH2CO), 1.9 (5H, m, cyclopentyl C-H), 1.61 (3H, m, cyclopentyl C-H); IR(KBr),3420,3220,3160,2960,1700,1660 cm-1 ; MS m/z 276 (M)+.

reactant | 3-cyclopentyloxy-4-methoxycinnamic acid | 7.9 g | C1(CCCC1)OC=1C=C(C=CC(=O)O)C=CC1OC | C15H18O4
reactant | hydrazine hydrate | 60 mmol | O.NN
solvent | toluene | 25 ml | C1(=CC=CC=C1)C | C7H8
product | 5-[3-(Cyclopentyloxy)-4-methoxyphenyl]-3-pyrazolidinone | 5 g | C1(CCCC1)OC=1C=C(C=CC1OC)C1CC(NN1)=O | C15H20N2O3
